US04490376
3-amino-1-phenyl-pyrazole (4 g) was reacted with ethyl 4-chloro-acetoacetate (4.1 g) in polyphosphoric acid (19.8 g; 10.6 g of H3PO4 and 9.2 g of P2O5) under stirring at 100° C. for 30 minutes: after cooling the reaction mixture was diluted with ice water and neutralized with 35% NaOH. The precipitate was filtered and washed with water to give 5-chloromethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one, m.p. 194°-196° C. (5.9 g), which was reacted with triphenylphosphine (6.75 g) in acetonitrile (190 ml) at reflux temperature for 65 hours. After cooling the solution was evaporated in vacuo to dryness and the residue was treated with ethyl acetate: filtration of the crystalline product gave (1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one-5-yl)-methyl-triphenylphosphonium chloride, m.p. 245°-247° C. (10 g), which was dissolved in chloroform (100 ml) and added dropwise to a suspension of 75% NaH (0.74 g) in chloroform (50 ml) and dimethylsulphoxide (5 ml) mantaining the temperature under 20° C.

reactant | 3-amino-1-phenyl-pyrazole | 4 g | NC1=NN(C=C1)C1=CC=CC=C1 | C9H9N3
reactant | ethyl 4-chloro-acetoacetate | 4.1 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | NaOH | [OH-].[Na+]
product | 5-chloromethyl-1-phenyl-1H,7H-pyrazolo[1,5-a]pyrimidine-7-one | ClCC=1N=C2N(C(C1)=O)N(C=C2)C2=CC=CC=C2 | C13H10ClN3O
